US08124610B2
5-iodopyridine-2-sulfonyl chloride
To a 0° C. mixture of 5-Iodo-pyridine-2-thiol (904 mg, 3.81 mmol) in Methylene chloride (17 mL, 270 mmol) and Water (8.6 mL, 480 mmol) was added 37% hydrochloric acid (37:63, Hydrogen chloride:Water, 2.6 mL). 10% NaOCl (1:9, Sodium hypochlorite:Water, 2.0E1 mL) was then added dropwise over 10 min to the vigorously stirred reaction mixture. After stirring 20 min, the reaction mixture was partitioned, and the aqueous layer was extracted with methylene chloride (2×). The combined organic layers were washed with aqueous sodium bisulfite, dried over sodium sulfate, filtered and concentrated in vacuo to afford a light yellow crystalline solid.

reactant | 5-Iodo-pyridine-2-thiol | 3.81 mmol, 904 mg | IC=1C=CC(=NC1)S | C5H4INS
reactant | Methylene chloride | 270 mmol, 17 mL | C(Cl)Cl | CH2Cl2
reactant | Water | 480 mmol, 8.6 mL | O | H2O
reactant | hydrochloric acid | 2.6 mL | Cl | ClH
reactant | NaOCl | 2.0E1 mL | [O-]Cl.[Na+]
product | 5-iodopyridine-2-sulfonyl chloride | IC=1C=CC(=NC1)S(=O)(=O)Cl | C5H3ClINO2S
